US05200415
Synthesis of 7-propylpyrazolo[1,5-a]pyridine-3-carboxylic acid
To 0 46 g (1.98 mmol) of ethyl 7-propylpyrazolo[1,5-a]pyridine-3-carboxylate, 8 ml of 2.5N aq. NaOH solution and 5 m; of ethanol were added, followed by stirring at 100° C. for 3 hours. After the reaction, post treatments were conducted in a similar manner to the syntheses of the 5-methyl and 2,7-dimethyl derivatives so that 0.37 g (1.81 mmol) of crystals of the title compound were obtained (Yield: 91%).

reactant | ethyl 7-propylpyrazolo[1,5-a]pyridine-3-carboxylate | C(CC)C1=CC=CC=2N1N=CC2C(=O)OCC | C13H16N2O2
reactant | NaOH | 2.5N, 8 ml | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 7-propylpyrazolo[1,5-a]pyridine-3-carboxylic acid | Yield: 91% | C(CC)C1=CC=CC=2N1N=CC2C(=O)O | C11H12N2O2
